* Sky130 port of the four-bit asynchronous differential SAR ADC reference.
* The original bootstrap, CDAC, comparator, and VALID-driven control are retained.
.subckt sar4_clock_inv a y vdd vss
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=16
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=32 nf=16
.ends sar4_clock_inv

.subckt sar4_delay_inv a y vdd vss
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
.ends sar4_delay_inv

.subckt sar4_cmp_delay out outn inp inn vdd
* A minimum-length tapered buffer pair drives the comparator handshake clock.
XI1 inp d1 vdd inn sar4_delay_inv
XI2 d1 out vdd outn sar4_drive_inv
.ends sar4_cmp_delay

.subckt sar_comparator clk outn outp vss vdd vinn vinp
XM7 XP CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM9 XN CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM5 OUTN LN VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM4 OUTP LP VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM3 LN CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM2 LP CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM1 LN LP VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XM0 LP LN VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XM14 net1 CLK VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=8
XM13 XN VINN net1 VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=20
XM12 XP VINP net1 VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=20
XM11 OUTN LN VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
XM10 OUTP LP VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
XM8 LN LP XN VSS sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
XM6 LP LN XP VSS sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
.ends sar_comparator
.subckt sar4_bootstrap_switch clks gnd vdd vin vout
XM9 net4 CLKS net3 GND sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XM8 net4 GATE net3 GND sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XM10 CLKSB CLKS GND GND sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XM4 net2 CLKSB GND GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM3 GATE VDD net2 GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM2 VIN GATE VOUT GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM1 net3 GATE VIN GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM0 net3 CLKSB GND GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM11 CLKSB CLKS VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=3 nf=1
XM7 net4 CLKS VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=3 nf=1
XM6 GATE net4 net1 net1 sky130_fd_pr__pfet_01v8 l=0.15 w=3 nf=1
XM5 VDD GATE net1 net1 sky130_fd_pr__pfet_01v8 l=0.15 w=6 nf=2
C0 net1 net3 1p
.ends sar4_bootstrap_switch
.subckt sar4_cdac_half_4bit clks dctrl3 dctrl2 dctrl1 gnd vdd vin vrefn  vrefp vtop
XI4 CLKS GND VDD VIN VTOP sar4_bootstrap_switch
C3 VTOP GND 50f
C2 VTOP VBOT1 50f
C1 VTOP VBOT2 100f
C0 VTOP VBOT3 200f
XM2 VBOT1 DCTRL1 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=6 nf=2
XM1 VBOT2 DCTRL2 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM0 VBOT3 DCTRL3 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=24 nf=8
XM5 VBOT1 DCTRL1 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM4 VBOT2 DCTRL2 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
XM3 VBOT3 DCTRL3 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=8
.ends sar4_cdac_half_4bit
.subckt sar4_std_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
.ends sar4_std_inv

.subckt sar4_drive_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
.ends sar4_drive_inv

.subckt sar4_medium_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
.ends sar4_medium_inv

.subckt sar4_cdac_output_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=16 nf=8
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=8
.ends sar4_cdac_output_inv

.subckt sar4_cdac_inv_x8 a y vdd vss
XI a y vdd vss sar4_cdac_output_inv
.ends sar4_cdac_inv_x8

.subckt sar4_std_nand2 a b y vdd vss
XP1 y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=1
XP2 y b vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=1
XN1 y a nx vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=1
XN2 nx b vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=1
.ends sar4_std_nand2

.subckt sar4_std_tg a b en enb vdd vss
XN a en b vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=1
XP a enb b vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
.ends sar4_std_tg

.subckt sar4_std_latch d q en enb vdd vss
XTI d x en enb vdd vss sar4_std_tg
XI1 x xb vdd vss sar4_std_inv
XI2 xb q vdd vss sar4_drive_inv
XTF q x enb en vdd vss sar4_std_tg
.ends sar4_std_latch

.subckt sar4_std_latch_reset d q en enb rst vdd vss
XTI d x en enb vdd vss sar4_std_tg
XI1 x xb vdd vss sar4_std_inv
XI2 xb q vdd vss sar4_drive_inv
XTF q x enb en vdd vss sar4_std_tg
XR x rst vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=4
.ends sar4_std_latch_reset

.subckt sar4_and2_x1 y vdd vss a b
XN a b yn vdd vss sar4_std_nand2
XI yn y vdd vss sar4_std_inv
.ends sar4_and2_x1

.subckt sar4_or2_x4 y vdd vss a b
XIA a an vdd vss sar4_std_inv
XIB b bn vdd vss sar4_std_inv
XN an bn y vdd vss sar4_std_nand2
.ends sar4_or2_x4

.subckt sar4_inverter_x1 y vdd vss a
XI a y vdd vss sar4_std_inv
.ends sar4_inverter_x1

.subckt sar4_inverter_x4 y vdd vss a
XI a y vdd vss sar4_std_inv
.ends sar4_inverter_x4

.subckt sar4_dff_x1 q vdd vss ck d
XIC ck ckb vdd vss sar4_medium_inv
XLM d qm ckb ck vdd vss sar4_std_latch
XLS qm q ck ckb vdd vss sar4_std_latch
.ends sar4_dff_x1

.subckt sar4_dff_reset_x1 q vdd vss ck d rn
XIC ck ckb vdd vss sar4_medium_inv
XIR rn rst vdd vss sar4_drive_inv
XLM d qm ckb ck rst vdd vss sar4_std_latch_reset
XLS qm q ck ckb rst vdd vss sar4_std_latch_reset
.ends sar4_dff_reset_x1
.subckt sar4_async_logic_4bit clkc clks cmpck dcmpn dcmpp dctrln3  dctrln2 dctrln1 dctrlp3 dctrlp2 dctrlp1  do3 do2 do1 do0 gnd vdd
XI76 DCTRLN0 VDD GND net26 CLK0 sar4_and2_x1
XI67 DCTRLP0 VDD GND net28 CLK0 sar4_and2_x1
XI55 net11 VDD GND net3 CLK_GATE sar4_and2_x1
XI53 CLK_GATE VDD GND CLKC RDYB sar4_and2_x1
XI77 net26 VDD GND CLK0 DCMPN sar4_dff_x1
* Lower weights use the driven Q output directly. The MSB uses a tapered
* inverting driver to obtain its high reset state and drive the largest load.
XI75 DCTRLN1 VDD GND CLK1 DCMPN CLKC sar4_dff_reset_x1
XI73 DCTRLN2 VDD GND CLK2 DCMPN CLKC sar4_dff_reset_x1
XI71 DCTRLN3_RAW VDD GND CLK3 DCMPP CLKC sar4_dff_reset_x1
XI68 net28 VDD GND CLK0 DCMPP sar4_dff_x1
XI65 DCTRLP1 VDD GND CLK1 DCMPP CLKC sar4_dff_reset_x1
* The final VALID return generates EOC after the LSB decision is stored.
XIEOC EOC VDD GND CLK0 net3 sar4_and2_x1
XI60 DO0 VDD GND EOC DCTRLP0 sar4_dff_x1
XI58 DO1 VDD GND EOC DCTRLP1 sar4_dff_x1
XI57 DO2 VDD GND EOC DCTRLP2 sar4_dff_x1
XI56 DO3 VDD GND EOC DCTRLP3 sar4_dff_x1
XI45 DCTRLP2 VDD GND CLK2 DCMPP CLKC sar4_dff_reset_x1
XI44 DCTRLP3_RAW VDD GND CLK3 DCMPN CLKC sar4_dff_reset_x1
XBN3 DCTRLN3_RAW DCTRLN3 VDD GND sar4_cdac_inv_x8
XBP3 DCTRLP3_RAW DCTRLP3 VDD GND sar4_cdac_inv_x8
XI42 RDYB VDD GND CLK0 sar4_inverter_x4
XDELAY0 CMPCK GND net11 GND VDD sar4_cmp_delay
XI41 CLK0 VDD GND VALID CLK1 CLKC sar4_dff_reset_x1
XI40 CLK1 VDD GND VALID CLK2 CLKC sar4_dff_reset_x1
XI39 CLK2 VDD GND VALID CLK3 CLKC sar4_dff_reset_x1
XI38 CLK3 VDD GND VALID VDD CLKC sar4_dff_reset_x1
XI52 VALID VDD GND DCMPP DCMPN sar4_or2_x4
XI54 net3 VDD GND VALID sar4_inverter_x1
.ends sar4_async_logic_4bit
.subckt sar_adc_4bit_async clks dout3 dout2 dout1 dout0 vss vdd vinn vinp vrefn vrefp
XCLKC CLKS CLKC VDD VSS sar4_clock_inv
XI11 CMPCK DCMPN DCMPP VSS VDD VRESN VRESP sar_comparator
XI10 CLKS DCTRLP3 DCTRLP2 DCTRLP1 VSS VDD VINP VREFN VREFP  VRESP sar4_cdac_half_4bit
XI9 CLKS DCTRLN3 DCTRLN2 DCTRLN1 VSS VDD VINN VREFN VREFP  VRESN sar4_cdac_half_4bit
XI12 CLKC CLKS CMPCK DCMPN DCMPP DCTRLN3 DCTRLN2 DCTRLN1  DCTRLP3 DCTRLP2 DCTRLP1 DOUT3 DOUT2 DOUT1  DOUT0 VSS VDD sar4_async_logic_4bit
.ends sar_adc_4bit_async
