* Sky130 six-bit asynchronous differential SAR ADC reference.
* The bootstrap, 640 fF/side CDAC, comparator, and VALID-driven control are transistor-level.
.subckt sar4_clock_inv a y vdd vss
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=16
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=32 nf=16
.ends sar4_clock_inv

.subckt sar4_delay_inv a y vdd vss
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
.ends sar4_delay_inv

.subckt sar4_cmp_delay out outn inp inn vdd
* A minimum-length tapered buffer pair drives the comparator handshake clock.
XI1 inp d1 vdd inn sar4_delay_inv
XI2 d1 out vdd outn sar4_drive_inv
.ends sar4_cmp_delay

.subckt sar_comparator clk outn outp vss vdd vinn vinp
XM7 XP CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM9 XN CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM5 OUTN LN VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM4 OUTP LP VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM3 LN CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM2 LP CLK VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XM1 LN LP VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XM0 LP LN VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XM14 net1 CLK VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=8
XM13 XN VINN net1 VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=20
XM12 XP VINP net1 VSS sky130_fd_pr__nfet_01v8 l=0.15 w=20 nf=20
XM11 OUTN LN VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
XM10 OUTP LP VSS VSS sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
XM8 LN LP XN VSS sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
XM6 LP LN XP VSS sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
.ends sar_comparator
.subckt sar4_bootstrap_switch clks gnd vdd vin vout
XM9 net4 CLKS net3 GND sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XM8 net4 GATE net3 GND sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XM10 CLKSB CLKS GND GND sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XM4 net2 CLKSB GND GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM3 GATE VDD net2 GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM2 VIN GATE VOUT GND sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
XM1 net3 GATE VIN GND sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=4
XM0 net3 CLKSB GND GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XM11 CLKSB CLKS VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=3 nf=1
XM7 net4 CLKS VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=3 nf=1
XM6 GATE net4 net1 net1 sky130_fd_pr__pfet_01v8 l=0.15 w=3 nf=1
XM5 VDD GATE net1 net1 sky130_fd_pr__pfet_01v8 l=0.15 w=6 nf=2
C0 net1 net3 1p
.ends sar4_bootstrap_switch
.subckt sar6_cdac_half_6bit clks dctrl5 dctrl4 dctrl3 dctrl2 dctrl1 gnd vdd vin vrefn vrefp vtop
XI4 CLKS GND VDD VIN VTOP sar4_bootstrap_switch
* Explicit capacitance per side is 640 fF. The small dummy value compensates
* fixed top-plate/device parasitics while the five switched caps remain binary weighted.
C5 VTOP GND 2.078125f
C4 VTOP VBOT1 20.578125f
C3 VTOP VBOT2 41.15625f
C2 VTOP VBOT3 82.3125f
C1 VTOP VBOT4 164.625f
C0 VTOP VBOT5 329.25f
XP1 VBOT1 DCTRL1 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=3 nf=1
XP2 VBOT2 DCTRL2 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=6 nf=2
XP3 VBOT3 DCTRL3 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=12 nf=4
XP4 VBOT4 DCTRL4 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=24 nf=8
XP5 VBOT5 DCTRL5 VREFP VDD sky130_fd_pr__pfet_01v8 l=0.15 w=48 nf=16
XN1 VBOT1 DCTRL1 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XN2 VBOT2 DCTRL2 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
XN3 VBOT3 DCTRL3 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
XN4 VBOT4 DCTRL4 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=8
XN5 VBOT5 DCTRL5 VREFN GND sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=16
.ends sar6_cdac_half_6bit
.subckt sar4_std_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
.ends sar4_std_inv

.subckt sar4_drive_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=4
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=4
.ends sar4_drive_inv

.subckt sar4_medium_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
.ends sar4_medium_inv

.subckt sar4_cdac_output_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=16 nf=8
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=8
.ends sar4_cdac_output_inv

.subckt sar4_cdac_inv_x8 a y vdd vss
XI a y vdd vss sar4_cdac_output_inv
.ends sar4_cdac_inv_x8

.subckt sar4_std_nand2 a b y vdd vss
XP1 y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=1
XP2 y b vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=1
XN1 y a nx vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=1
XN2 nx b vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=8 nf=1
.ends sar4_std_nand2

.subckt sar4_std_tg a b en enb vdd vss
XN a en b vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=1
XP a enb b vdd sky130_fd_pr__pfet_01v8 l=0.15 w=8 nf=2
.ends sar4_std_tg

.subckt sar4_std_latch d q en enb vdd vss
XTI d x en enb vdd vss sar4_std_tg
XI1 x xb vdd vss sar4_std_inv
XI2 xb q vdd vss sar4_drive_inv
XTF q x enb en vdd vss sar4_std_tg
.ends sar4_std_latch

.subckt sar4_std_latch_reset d q en enb rst vdd vss
XTI d x en enb vdd vss sar4_std_tg
XI1 x xb vdd vss sar4_std_inv
XI2 xb q vdd vss sar4_drive_inv
XTF q x enb en vdd vss sar4_std_tg
XR x rst vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=16 nf=4
.ends sar4_std_latch_reset

.subckt sar4_and2_x1 y vdd vss a b
XN a b yn vdd vss sar4_std_nand2
XI yn y vdd vss sar4_std_inv
.ends sar4_and2_x1

.subckt sar4_or2_x4 y vdd vss a b
XIA a an vdd vss sar4_std_inv
XIB b bn vdd vss sar4_std_inv
XN an bn y vdd vss sar4_std_nand2
.ends sar4_or2_x4

.subckt sar4_inverter_x1 y vdd vss a
XI a y vdd vss sar4_std_inv
.ends sar4_inverter_x1

.subckt sar4_inverter_x4 y vdd vss a
XI a y vdd vss sar4_std_inv
.ends sar4_inverter_x4

.subckt sar4_dff_x1 q vdd vss ck d
XIC ck ckb vdd vss sar4_medium_inv
XLM d qm ckb ck vdd vss sar4_std_latch
XLS qm q ck ckb vdd vss sar4_std_latch
.ends sar4_dff_x1

.subckt sar4_dff_reset_x1 q vdd vss ck d rn
XIC ck ckb vdd vss sar4_medium_inv
XIR rn rst vdd vss sar4_drive_inv
XLM d qm ckb ck rst vdd vss sar4_std_latch_reset
XLS qm q ck ckb rst vdd vss sar4_std_latch_reset
.ends sar4_dff_reset_x1

* Lightweight static cells for the Liu-style two-row SAR controller.  The
* sequence row and decision row retain edge-triggered state, but present much
* less clock and data capacitance than the original general-purpose cells.
.subckt liu_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=1 nf=1
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=0.5 nf=1
.ends liu_inv

.subckt liu_drive_inv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 l=0.15 w=4 nf=2
XN y a vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=2 nf=2
.ends liu_drive_inv

.subckt liu_tg a b en enb vdd vss
XN a en b vss sky130_fd_pr__nfet_01v8 l=0.15 w=1 nf=1
XP a enb b vdd sky130_fd_pr__pfet_01v8 l=0.15 w=2 nf=1
.ends liu_tg

.subckt liu_latch d q en enb vdd vss
XTI d x en enb vdd vss liu_tg
XI1 x xb vdd vss liu_inv
XI2 xb q vdd vss liu_drive_inv
XTF q x enb en vdd vss liu_tg
.ends liu_latch

.subckt liu_latch_reset d q en enb rst vdd vss
XTI d x en enb vdd vss liu_tg
XI1 x xb vdd vss liu_inv
XI2 xb q vdd vss liu_drive_inv
XTF q x enb en vdd vss liu_tg
XR x rst vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4 nf=2
.ends liu_latch_reset

.subckt liu_dff q vdd vss ck d
XIC ck ckb vdd vss liu_inv
XLM d qm ckb ck vdd vss liu_latch
XLS qm q ck ckb vdd vss liu_latch
.ends liu_dff

.subckt liu_dff_reset q vdd vss ck d rn
XIC ck ckb vdd vss liu_inv
XIR rn rst vdd vss liu_drive_inv
XLM d qm ckb ck rst vdd vss liu_latch_reset
XLS qm q ck ckb rst vdd vss liu_latch_reset
.ends liu_dff_reset

.subckt sar6_async_logic_6bit clkc clks cmpck dcmpn dcmpp dctrln5 dctrln4 dctrln3 dctrln2 dctrln1 dctrlp5 dctrlp4 dctrlp3 dctrlp2 dctrlp1 do5 do4 do3 do2 do1 do0 gnd vdd
XI76 DCTRLN0 VDD GND net26 CLK0 sar4_and2_x1
XI67 DCTRLP0 VDD GND net28 CLK0 sar4_and2_x1
XI55 net11 VDD GND net3 CLK_GATE sar4_and2_x1
XI53 CLK_GATE VDD GND CLKC RDYB sar4_and2_x1
XI77 net26 VDD GND CLK0 DCMPN liu_dff
XI75 DCTRLN1 VDD GND CLK1 DCMPN CLKC liu_dff_reset
XI73 DCTRLN2 VDD GND CLK2 DCMPN CLKC liu_dff_reset
XI72 DCTRLN3 VDD GND CLK3 DCMPN CLKC liu_dff_reset
XI71 DCTRLN4 VDD GND CLK4 DCMPN CLKC liu_dff_reset
XI70 DCTRLN5_RAW VDD GND CLK5 DCMPP CLKC liu_dff_reset
XI68 net28 VDD GND CLK0 DCMPP liu_dff
XI65 DCTRLP1 VDD GND CLK1 DCMPP CLKC liu_dff_reset
XI64 DCTRLP2 VDD GND CLK2 DCMPP CLKC liu_dff_reset
XI63 DCTRLP3 VDD GND CLK3 DCMPP CLKC liu_dff_reset
XI62 DCTRLP4 VDD GND CLK4 DCMPP CLKC liu_dff_reset
XI61 DCTRLP5_RAW VDD GND CLK5 DCMPN CLKC liu_dff_reset
XIEOC EOC VDD GND CLK0 net3 sar4_and2_x1
XI60 DO0 VDD GND EOC DCTRLP0 liu_dff
XI58 DO1 VDD GND EOC DCTRLP1 liu_dff
XI57 DO2 VDD GND EOC DCTRLP2 liu_dff
XI56 DO3 VDD GND EOC DCTRLP3 liu_dff
XI59 DO4 VDD GND EOC DCTRLP4 liu_dff
XI54O DO5 VDD GND EOC DCTRLP5 liu_dff
XBN5 DCTRLN5_RAW DCTRLN5 VDD GND sar4_cdac_inv_x8
XBP5 DCTRLP5_RAW DCTRLP5 VDD GND sar4_cdac_inv_x8
XI42 RDYB VDD GND CLK0 sar4_inverter_x4
XDELAY0 CMPCK GND net11 GND VDD sar4_cmp_delay
XI41 CLK0 VDD GND VALID CLK1 CLKC liu_dff_reset
XI40 CLK1 VDD GND VALID CLK2 CLKC liu_dff_reset
XI39 CLK2 VDD GND VALID CLK3 CLKC liu_dff_reset
XI38 CLK3 VDD GND VALID CLK4 CLKC liu_dff_reset
XI37 CLK4 VDD GND VALID CLK5 CLKC liu_dff_reset
XI36 CLK5 VDD GND VALID VDD CLKC liu_dff_reset
XI52 VALID VDD GND DCMPP DCMPN sar4_or2_x4
XI54 net3 VDD GND VALID sar4_inverter_x1
.ends sar6_async_logic_6bit
.subckt sar_adc_6bit_async clks dout5 dout4 dout3 dout2 dout1 dout0 vss vdd vinn vinp vrefn vrefp
XCLKC CLKS CLKC VDD VSS sar4_clock_inv
XI11 CMPCK DCMPN DCMPP VSS VDD VRESN VRESP sar_comparator
XI10 CLKS DCTRLP5 DCTRLP4 DCTRLP3 DCTRLP2 DCTRLP1 VSS VDD VINP VREFN VREFP VRESP sar6_cdac_half_6bit
XI9 CLKS DCTRLN5 DCTRLN4 DCTRLN3 DCTRLN2 DCTRLN1 VSS VDD VINN VREFN VREFP VRESN sar6_cdac_half_6bit
XI12 CLKC CLKS CMPCK DCMPN DCMPP DCTRLN5 DCTRLN4 DCTRLN3 DCTRLN2 DCTRLN1 DCTRLP5 DCTRLP4 DCTRLP3 DCTRLP2 DCTRLP1 DOUT5 DOUT4 DOUT3 DOUT2 DOUT1 DOUT0 VSS VDD sar6_async_logic_6bit
.ends sar_adc_6bit_async
